US07834063B2
C. N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1-phenyl-N2-propylglycinamide
Synthesized as described in Example 91C using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-propylglycine and aniline: MS (APCI) m/z 360 ([M]−).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-propylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CCC)C(F)(F)F | C13H13F3N2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1-phenyl-N2-propylglycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)NC1=CC=CC=C1)CCC)C(F)(F)F | C19H18F3N3O
